US07550474B2
b. 2-(2-Azido-1,1-difluoro-ethyl)-6-methyl-pyridine
Methanesulfonic acid 2,2-difluoro-2-(6-methyl-pyridin-2-yl)-ethyl ester (900 mg, 3.83 mmol), as prepared in the preceding step, was dissolved in DMSO (2 mL). To this solution was added sodium azide (498 mg, 7.65 mmol) and the reaction mixture was heated at 180° C. under microwave irradiation for 1 hour. The reaction mixture was partitioned between water and ethyl acetate. The combined ethyl acetate extracts were dried over Na2SO4 and concentrated to afford a brown residue (700 mg, 92%). 1H NMR (CDCl3) δ 7.73 (t, J=7.82 Hz, 1H), 7.52 (d, J=7.76 Hz, 1H), 7.26 (d, J=7.79 Hz, 1H), 4.02 (t, J=13.23 Hz, 2H), 2.50 (s, 3H).

reactant | Methanesulfonic acid 2,2-difluoro-2-(6-methyl-pyridin-2-yl)-ethyl ester | 3.83 mmol, 900 mg | FC(COS(=O)(=O)C)(C1=NC(=CC=C1)C)F | C9H11F2NO3S
reactant | sodium azide | 7.65 mmol, 498 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | 2-(2-Azido-1,1-difluoro-ethyl)-6-methyl-pyridine | 700 mg, 92% | N(=[N+]=[N-])CC(F)(F)C1=NC(=CC=C1)C | C8H8F2N4
